US07632832B2
Step A. N′-Phenyl-2-pyridin-4-ylacetohydrazide
N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (2.06 g, 10.76 mmol, 2.02 mmol), 1H-1,2,3-benzotriazol-1-ol hydrate (1.45 g, 10.76 mmol), N,N-diisopropylethylamine (4.69 mL, 26.9 mmol), and phenyl hydrazine (970 mg, 8.97 mmol) were added to a solution of 4-pyridylacetic acid hydrochloride (1.23 g, 8.97 mmol) in dimethylformamide (10 mL). After 16 h, the reaction was worked up with dichloromethane and saturated sodium bicarbonate. The organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (99% dichloromethane→12% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (400 mg). MS 228.5 (M+1)

reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 10.76 mmol, 2.06 g | Cl.CN(CCCN=C=NCC)C
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | 10.76 mmol, 1.45 g | O.N1(N=NC2=C1C=CC=C2)O
reactant | N,N-diisopropylethylamine | 26.9 mmol, 4.69 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl hydrazine | 8.97 mmol, 970 mg | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4-pyridylacetic acid hydrochloride | 8.97 mmol, 1.23 g | Cl.N1=CC=C(C=C1)CC(=O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N′-Phenyl-2-pyridin-4-ylacetohydrazide | 400 mg | C1(=CC=CC=C1)NNC(CC1=CC=NC=C1)=O | C13H13N3O
